US09376420B2
Step 3: 1-(6-bromo-pyridin-2-yl)-4,4,5,5,5-pentafluoro-pent-1-en-3-one
To a saturated solution of pentafluoroiodoethane (0.84 M, in diethyl ether) (42.1 mL, 35.3 mmol), was slowly added a solution of methyllithium/lithium bromide (1.5 M, in diethyl ether) (23.6 mL, 35.3 mmol) under nitrogen atmosphere at −78° C. The reaction mixture was stirred for 20 minutes and then a solution of 3-(6-bromo-pyridin-2-yl)-N-methoxy-N-methyl-acrylamide (3.2 g, 11.8 mmol, in tetrahydrofuran 30.0 mL) prepared in Step 2 was slowly added at −78° C. The reaction mixture was stirred at room temperature, quenched with distilled water, acidified by a 10% potassium hydrogen sulfate solution (pH=5), and then extracted with ethyl acetate. The extract was washed with a saturated solution of sodium hydrogen carbonate, dried on anhydrous magnesium sulfate, concentrated under reduced pressure to give a yellow liquid residue. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/10) to give 2.4 g of the titled compound as a yellow liquid.

reactant | pentafluoroiodoethane | 35.3 mmol, 0.84 M, 42.1 mL | FC(C(I)(F)F)(F)F | C2F5I
reactant | methyllithium lithium bromide | 35.3 mmol, 1.5 M, 23.6 mL | C[Li].[Br-].[Li+]
reactant | 3-(6-bromo-pyridin-2-yl)-N-methoxy-N-methyl-acrylamide | 11.8 mmol, 30.0 mL, 3.2 g | BrC1=CC=CC(=N1)C=CC(=O)N(C)OC | C10H11BrN2O2
product | 1-(6-bromo-pyridin-2-yl)-4,4,5,5,5-pentafluoro-pent-1-en-3-one | 2.4 g | BrC1=CC=CC(=N1)C=CC(C(C(F)(F)F)(F)F)=O | C10H5BrF5NO
